US04642316
Phenytoin Sodium/Ethylenediamine (1:2) Solution
Ethylenediamine (0.58 g, 10 mmol) was dissolved in 20 ml water, added to 1.25 g phenytoin sodium, and sonicated to dissolve the solid. When this clear solution was diluted to 25 ml, it had a pH of 11.6.

reactant | Ethylenediamine | 10 mmol, 0.58 g | C(CN)N | C2H8N2
reactant | phenytoin sodium | 1.25 g | C=1C=CC(=CC1)C2(C(=O)N=C(N2)[O-])C=3C=CC=CC3.[Na+]
solvent | water | 20 ml | O | H2O
product | Phenytoin Sodium Ethylenediamine | C=1C=CC(=CC1)C2(C(=O)N=C(N2)[O-])C=3C=CC=CC3.[Na+].C(CN)N | InChI=1S/C15H12N2O2.C2H8N2.Na/c18-13-15(17-14(19)16-13,11-7-3-1-4-8-11)12-9-5-2-6-10-12;3-1-2-4;/h1-10H,(H2,16,17,18,19);1-4H2;/q;;+1/p-1
